Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
right femoral fracture
 
Major Surgical or Invasive Procedure:
___ ORIF with retrograde nail 

 
History of Present Illness:
The patient is a ___ yo F who presents ___ a mechanical fall in 
her home, and was found to have a comminuted right femoral shaft 
fracture. 
 
Past Medical History:
MRSA, HTN, hypothyroid, s/p right DHS ___ years ago
 
Social History:
The patient lives by herself.  A niece is the HCP ___ 
___- ___
 
Physical Exam:
Afebrile, vss
Gen: thin elderly woman in NAD, alert and conversant
Resp: CTAB anteriorally
CV: nl rate, regular rhythm
Extremity: right leg incision c/d/i, normal peripheral pulses, 
able to move distal lower extremity
 
Pertinent Results:
labs ___:
Na: 133 K: 3.5 Cl: 100 Bicarb:21 BUN:13 Cr:0.7
WBC: 9.8 Hct: 27.9 Plt: 252

vitamin D ___: pending (will need follow up)
 
Brief Hospital Course:
Orthopedics was consulted in the emergency department for the 
patient having a right mid-shaft femoral fracture.  A tibial 
traction pin was placed under sterile conditions for patient 
comfort, and to reduce the risk of bleeding.  The next day, the 
patient was taken to the operating room by Dr. ___ and 
a retrograde nail was inserted.  The patient tolerated the 
procedure well.  She was brought back to the floor.  Routine 
post-operative care was performed. Physical therapy began to 
work with the patient and she was made weight-bearing as 
tolerated. Low dose oxycodone is provided for pain control, as 
well as standing tylenol.  On ___ she was transfused 1 unit 
packed red blood cells for low hematocrit.  Overnight on ___ 
the patient was noted to be acutely aggitated.  She was 
evaluated, and IM haldol was given.  The patient returned to a 
normal baseline function the next day, and geriatrics was 
consulted, who recommended haldol 0.5 mg IV injection for acute 
aggitation only.  She will need re-orienting and cuing.  They 
additionally noted that she had some mild urinary retention and 
a foley catheter was placed.  Per the geriatrics service, she 
can be discharged with a foley in place and a voiding trial can 
be completed at rehabilitation.  If the patient is unable to 
pass a voiding trial, then urology can be consulted.  The 
patient has a history of osteoporosis as evidenced by her 
fracture from fall from standing, a D25-0H is pending at 
discharge and will need to be followed-up. 
 
Medications on Admission:
colace, prevacid, lovastatin, lisinopril, levothyroxine, 
tylenol, tums, eyedrops
 
Discharge Medications:
1. Lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
2. Atorvastatin 10 mg Tablet Sig: One (1) Tablet ___ 
(___).  
3. Lisinopril 20 mg Tablet Sig: One (1) Tablet ___. 
 
4. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet ___ 
(___).  
5. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable ___ HS (at bedtime) as needed.  
6. Multivitamin     Tablet Sig: One (1) Tablet ___. 
 
7. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
8. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule ___ BID (2 
times a day).  
10. Acetaminophen 500 mg Tablet Sig: One (1) Tablet ___ Q4H 
(every 4 hours).  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet ___ BID (2 times a 
day) as needed.  
12. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) ___ as needed.  
13. Psyllium     Packet Sig: One (1) Packet ___ TID (3 times a 
day) as needed for constipation.  
14. Oxycodone 5 mg Tablet Sig: 0.5 Tablet ___ Q4H (every 4 hours) 
as needed for pain: hold for sedation, rr< 12.  
15. Lovenox 30 mg/0.3 mL Syringe Sig: One (1) syringe 
Subcutaneous twice a day for 3 weeks.  
16. Haloperidol Lactate 5 mg/mL Solution Sig: 0.5 mg Injection 
three times a day as needed for severe agitation ONLY.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right comminuted mid-femoral fracture

 
Discharge Condition:
Stable

 
Discharge Instructions:
Keep Incision dry.  Discontinue staples 14 days after surgery.  
Continue to be full weight bearing as tolerated on right leg. 
Take all medications as directed.  For questions, concerns or if 
you experience fevers greater than 101.2, incisional drainage or 
redness, calf pain, chest pain or shortness of breath then call 
___.
Physical Therapy:
Full weight bearing right leg
Treatments Frequency:
Keep Incision dry.  Discontinue staples 14 days after surgery.
 
Followup Instructions:
___